US07435815B2
(3-Dimethylamino-phenylamino)-acetic acid methyl ester
To a solution of N,N-dimethyl-m-phenylenediamine (120 mmol) in THF (500 mL) was added methyl bromoacetate (132 mmol) and DIPEA (264 mmol). The reaction mixture was refluxed for 16 h. Water (200 mL) and ethyl acetate (300 mL) were added, the layers were separated and the aqueous layer was extracted with ethyl acetate (2×200 mL). The combined organic layers were washed with water (4×100 mL) and brine (100 mL) and dried over Na2SO4. The solvents were removed in vacuo and the residue was purified by flash-chromatography (ethyl acetate/heptane 1:4) to give 17.5 g (84.0 mmol, 70%) of an oily product which crystallized slowly.

reactant | N,N-dimethyl-m-phenylenediamine | 120 mmol | CN(C1=CC(=CC=C1)N)C | C8H12N2
reactant | methyl bromoacetate | 132 mmol | BrCC(=O)OC | C3H5BrO2
reactant | DIPEA | 264 mmol | CCN(C(C)C)C(C)C | C8H19N
reactant | Water | 200 mL | O | H2O
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | (3-Dimethylamino-phenylamino)-acetic acid methyl ester | 84.0 mmol, 17.5 g, 70% | COC(CNC1=CC(=CC=C1)N(C)C)=O | C11H16N2O2
